US04873019
32 ml of 15% n-butyllithium solution in hexane are added dropwise to a suspension of 18.07 g of 4-n-octyloxy-4'-bromobiphenyl in a mixture of toluene/tetrahydrofuran at -15°. After 15 minutes, a clear solution is obtained and a mixture of 6.31 g of 3-n-propylcyclopentanone and 25 ml of toluene/tetrahydrofuran is added dropwise. After the mixture has reacted for a further 16 hours at room temperature and after conventional work-up and column chromatography, 4-(1-hydroxy-3-n-propylcyclopentyl)-4-n-octyloxybiphenyl is obtained.

reactant | n-butyllithium | 32 ml | C(CCC)[Li]
reactant | 4-n-octyloxy-4'-bromobiphenyl | 18.07 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C20H25BrO
reactant | 3-n-propylcyclopentanone | 6.31 g | C(CC)C1CC(CC1)=O | C8H14O
solvent | hexane | CCCCCC | C6H14
solvent | toluene tetrahydrofuran | C1(=CC=CC=C1)C.O1CCCC1
solvent | toluene tetrahydrofuran | 25 ml | C1(=CC=CC=C1)C.O1CCCC1
product | 4-(1-hydroxy-3-n-propylcyclopentyl)-4-n-octyloxybiphenyl | OC1(CC(CC1)CCC)C1(CC=C(C=C1)C1=CC=CC=C1)OCCCCCCCC | C28H42O2
